US07648987B2
1-(1H-Indol-2-yl)-3-methylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine
To a suspension of 1-iodo-3-methylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine (612 mg, 0.00200 mol) in 1,4-dioxane (20 mL) and water (5 mL) were added 1-Boc-indole-2-boronic acid (570 mg, 0.0022 mol), potassium carbonate (830 mg, 0.0060 mol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (80 mg, 0.0001 mol). The flask was evacuated and refilled with nitrogen (3×). The mixture was heated at 100° C. overnight. LC-MS showed the reaction to be incomplete. Another 80 mg of PdCl2(dppf) was added and the mixture was heated at 100° C. overnight. LC-MS showed the reaction was complete. The mixture was diluted with ethyl acetate (100 mL) and methanol (5 mL); the insoluble solid was filtered off through a pad of celite. The filtrate was washed with brine (20 mL), and dried over anhydrous sodium sulfate. The crude material was purified by silica gel chromatography (Hex:EtOAc=30:70→EtOAc:MeOH=98:2) to give the title compound as a yellow solid. LC-MS (ES, Pos.): 296 [MH+]; 1H-NMR (DMSO-d6): δ 2.64 (s, 3H), 6.58 (br s, 2H), 6.70 (d, J=1.5 Hz, 1H), 7.04 (t, J=7.4 Hz, 1H), 7.13 (m, 1H), 7.18 (d, J=4.8 Hz, 1H), 7.45 (d, J=8.1 Hz, 1H), 7.53 (d, J=4.8 Hz, 1H), 7.60 (d, J=7.8 Hz, 1H), 11.60 (s, 1H).

reactant | 1-iodo-3-methylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine | 0.00200 mol, 612 mg | IC=1N=C(N2C1C(=NC=C2)N)SC | C7H7IN4S
reactant | 1-Boc-indole-2-boronic acid | 0.0022 mol, 570 mg | C(=O)(OC(C)(C)C)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
reactant | potassium carbonate | 0.0060 mol, 830 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 0.0001 mol, 80 mg | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 80 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(1H-Indol-2-yl)-3-methylsulfanyl-imidazo[1,5-a]pyrazin-8-ylamine | N1C(=CC2=CC=CC=C12)C=1N=C(N2C1C(=NC=C2)N)SC | C15H13N5S
